US05496955
10.0 g of the crude salt from Example 1 were stirred in 15 ml H2O at 80°-90° C. for 30 minutes, cooled below 50° C. and filtered. The solid salt containing 0.03 mole D-histidine tartrate ([α]D +12.17° -C=1.61,H2O) was suspended in 15 ml H2O. With stirring, 0.09 mole (3.6 g) of sodium hydroxide was added and a clear solution was formed. Heat was evolved. Calcium chloride, 0.03 mole (3.33 g) was added and the mixture was stirred at 10°-15° C. for one hour to enable complete precipitation of calcium tartrate. The solid was filtered and washed thoroughly with 3 ml H2O. The filtrate was neutralized with hydrochloric acid 32% (3 ml) to pH=7.5 (isoelectric point) and cooled to 0°-10° C. with stirring for one hour to deposit the free amino acid. The white solid was collected by filtration, washed twice with 3 ml cold methanol: H2O 2:1, then with 2 ml methanol, and dried in vacuo (100° C.) for two hours. D-histidine was obtained in 71.2% yield (3.31 g) with optical purity of 99% ([α]=+39.33). Overall yield from L-histidine=64%. Assay (potentiometric titration, 0.1 NHCl) is 98.99%.

reactant | D-histidine tartrate | 0.03 mole | C(=O)(O)C(O)C(O)C(=O)O.N[C@H](CC1=CNC=N1)C(=O)O
reactant | sodium hydroxide | 0.09 mole, 3.6 g | [OH-].[Na+]
reactant | Calcium chloride | [Cl-].[Ca+2].[Cl-]
solvent | H2O | 15 ml | O | H2O
solvent | H2O | 15 ml | O | H2O
product | D-histidine | 71.2% yield | N[C@H](CC1=CNC=N1)C(=O)O | C6H9N3O2
